US05874449
3-(p-Methoxyphenyl)-1-propylmercaptan
A mixture of 3-(p-methoxyphenyl)-1-propylbromide (14 g; 61 mmol) and thiourea (5.1 g; 67 mmol) in ethanol (150 mL) was refluxed for 48 hours. Evaporation of the solvent provided a clear glassy compound, which was dissolved in 50 mL of water and treated with 100 mL of 40% aqueous sodium hydroxide. After stirring the resulting mixture for two hours, the product was extracted into ether (3×), and the combined organic extracts were washed with sodium bicarbonate and brine, dried, and concentrated. Chromatographic purification of the crude thiol on a silica gel column eluting with 2% either in hexane delivered 10.2 g of 3-(p-methoxyphenyl)-1-propylmercaptan as a clear liquid 1H NMR (300 MHz, CDCl3):δ 1.34 (t, 1H); 1.88-1.92 (m,2H); 2.49-2.53 (m,2H); 2.64-2.69 (m, 2H); 3.77 (s, 3H); 6.80-6.84 (m,2H); 7.06-7.24 (m,2H).

reactant | 3-(p-methoxyphenyl)-1-propylbromide | 61 mmol, 14 g | COC1=CC=C(C=C1)CCCBr | C10H13BrO
reactant | thiourea | 67 mmol, 5.1 g | NC(=S)N | CH4N2S
reactant | sodium hydroxide | 100 mL | [OH-].[Na+]
solvent | ethanol | 150 mL | C(C)O | C2H6O
solvent | water | 50 mL | O | H2O
product | 3-(p-Methoxyphenyl)-1-propylmercaptan | COC1=CC=C(C=C1)CCCS | C10H14OS
